US06765012B2
5-Chloro-3-{[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamine (632 mg, 1.2 equiv.) and 5-chloro-3-hydroxymethylene-1,3-dihydro-indol-2-one (500 mg, 2.56 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (775 mg, 79%).

reactant | 4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamine | 632 mg, 1.2 equiv. | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | 5-chloro-3-hydroxymethylene-1,3-dihydro-indol-2-one | 2.56 mmol, 500 mg, 1 equiv. | ClC=1C=C2C(C(NC2=CC1)=O)=CO | C9H6ClNO2
product | 5-Chloro-3-{[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 775 mg, 79% | ClC=1C=C2C(C(NC2=CC1)=O)=CNC1=CC=C(C=C1)OCCN1CCCC1 | C21H22ClN3O2
